US07524840B2
5-(2-chlorophenyl)-1,2-dihydro-7-cyano-8-methoxy-pyrazolo[3,4-b][1,4]benzodiazepine (XXIIb) was prepared by reacting 0.00096 moles of 5-(2-chlorophenyl)-7-cyano-1,3-dihydro-8-methoxy-2H-1,4-benzodiazepin-2-thione (IIb) with 1,1-diethoxy-N,N-dimethyl-methanamine and then hydrazine in a manner analogous to the example above. Recrystallization from ethyl acetate provided 5-(2-chlorophenyl)-1,2-dihydro-7-cyano-8-methoxy-pyrazolo[3,4-b][1,4]benzodiazepine (XXIIb) as a light red solid, mp 288-290° C.

reactant | 5-(2-chlorophenyl)-7-cyano-1,3-dihydro-8-methoxy-2H-1,4-benzodiazepin-2-thione | 0.00096 moles | ClC1=C(C=CC=C1)C1=NCC(NC2=C1C=C(C(=C2)OC)C#N)=S | C17H12ClN3OS
reactant | 1,1-diethoxy-N,N-dimethyl-methanamine | C(C)OC(N(C)C)OCC | C7H17NO2
reactant | hydrazine | NN | H4N2
product | 5-(2-chlorophenyl)-1,2-dihydro-7-cyano-8-methoxy-pyrazolo[3,4-b][1,4]benzodiazepine | ClC1=C(C=CC=C1)C1=NC=2C(=NC3=C1C=C(C(=C3)OC)C#N)NNC2 | C18H12ClN5O
